US07985491B2
Under the atmosphere of argon, 11.6 g of 1-phenylnaphthalene-4-boronic acid and 14.5 g of 3-bromoiodobenzene were dissolved into 160 ml of toluene and 30 ml of DME, and 1.79 g of tetrakis(triphenylphosphine)palladium was added to the obtained solution. After 90 ml of a 2 M aqueous solution of sodium carbonate was added, the resultant mixture was heated under the refluxing condition for 8 hours. After the obtained mixture was left standing for one night, the mixture was subjected to extraction with toluene. The extract was washed with a saturated aqueous solution of sodium chloride, and the solvent was removed using an evaporator. The residue was purified in accordance with the silica gel column chromatography (the developing solvent: hexane/toluene=5/1), and 10.4 g of 1-(3-bromophenyl)-4-phenylnaphthalene was obtained as white crystals (the yield: 62%).

reactant | 1-phenylnaphthalene-4-boronic acid | 11.6 g | C1(=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)B(O)O | C16H13BO2
reactant | 3-bromoiodobenzene | 14.5 g | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.79 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 30 ml | COCCOC | C4H10O2
product | 1-(3-bromophenyl)-4-phenylnaphthalene | 10.4 g, yield: 62% | BrC=1C=C(C=CC1)C1=CC=C(C2=CC=CC=C12)C1=CC=CC=C1 | C22H15Br
